US06262052B1
A mixture of (±)-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-(1-methyl-2-oxopropyl)-3H-1,2,4-triazol-3-one (0.06 mol) in DMF (500 ml) was cooled to −10° C. and then stirred under N2 flow. Potassium tri-sec-butylborohydride, 1 M solution in tetrahydrofuran (150 ml) was added dropwise. The mixture was allowed to warm to room temperature slowly and then poured out into water. The precipitate was filtered off, washed with CH3OH and crystallized from CH3OH. The precipitate was filtered off and dried. The residue was purified by HPLC over CHIRALPAC AD (eluent: ethanol). Two pure fractions were collected and their solvents were evaporated. Each residue was triturated in CH3OH. The precipitate was filtered off and dried, yielding 7.3 g [S-(R*,R )] -2,4-dihydro-2-(2-hydroxy-1 methylpropyl)-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-3H-1,2,4-triazol-3-one. (interm. 1a) [α]20D=−10.81° (c=50.43 mg/5 ml DMF).

reactant | (±)-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-(1-methyl-2-oxopropyl)-3H-1,2,4-triazol-3-one | 0.06 mol | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1)C(C(C)=O)C)=O | C22H25N5O3
reactant | Potassium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[K+]
reactant | water | O | H2O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2,4-dihydro-2-(2-hydroxy-1 methylpropyl)-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-3H-1,2,4-triazol-3-one | OC(C(C)N1N=CN(C1=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O)C | C22H27N5O3
